*******************************************************************************
*****************************************************************
* NXP PSMN1R3_30YL
*
* Polarity N-Channel
* Ratings 30V/1.30E-03OHMS/15A
*
* Date Created Wed Feb 17 06:49:29 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R3_30YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 200000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000248084457647559 TC=0.00643254822055786,0.000140432211507521
RBD 9 4 0.000453832273404481 TC=0.00643254822055786,0.000140432211507521
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.78132290926321e-09
RG 1 2 0.887840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	4996
+ -8	4982
+ -6	4964
+ -4	4938
+ -2	4463
+ -1	2923
+ -0.5	1996
+ -0.2	1643
+ -0.1	1545
+ 0	0
+ 0.1	1358
+ 0.2	1280
+ 0.5	1125
+ 1	989
+ 2	850
+ 5	669
+ 10	545
+ 12	516
+ 20	453
+ 25	432



.MODEL MINT NMOS(Vto=1.98779276863412 Kp=4.1477e+02 Nfs=230000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=1.06209231421842e-11
+ N=1 M=0.56 VJ=0.5 Fc=0.5 Cjo=4.84605e-09 Tt=2.5e-08)

.ENDS

*******************************************************************************
